US07189712B2
Preparation of 3–Chloro-4-(4-methylpiperazin-1-yl)aniline
To a stirred solution of 1-(2-chloro-4-nitrophenyl)-4-methylpiperazine (2.43 g, 9.5 mmol) in 2N HCl (35 mL) at RT was added tin (II) chloride (7.2 g, 38 mmol). After 1 h, the solids were collected by filtration and dissolved in aqueous 1 N NaOH (300 mL). The aqueous solution was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and evaporated to afford the title compound (2.02 g, 95%).

reactant | 1-(2-chloro-4-nitrophenyl)-4-methylpiperazine | 9.5 mmol, 2.43 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C | C11H14ClN3O2
reactant | tin (II) chloride | 38 mmol, 7.2 g | [Sn](Cl)Cl
solvent | HCl | 2N, 35 mL | Cl | ClH
product | 3–Chloro-4-(4-methylpiperazin-1-yl)aniline | 2.02 g, 95% | ClC=1C=C(N)C=CC1N1CCN(CC1)C | C11H16ClN3
